.subckt RPOT 1 2 3
R1 1 2 {value*ratio + 1m}
R2 2 3 {value*(1-ratio)+ 1m}
* below are default parameters, which are required by some simulators
.param value=100k
.param ratio=.5
.ends
